US07495001B2
A] (E)-3-(4-Benzyloxy-5,6,7,8-tetrahydro-naphthalen-1-yl)-acrylic acid ethyl ester
To a cooled suspension (−10° C.) of 0.9 g (3.38 mmol) of 4-benzyloxy-5,6,7,8-tetrahydronaphthalene-1-carboxaldehyde [PCT Int. Appl. (2002), WO2002/092084A1] in 10 ml of absolute ethanol were added successively 0.75 ml (3.7 mmol) of triethyl phosphonoacetate and 0.255 g (3.7 mmol) of powdered sodium ethylate. Then, the mixture was stirred at ambient temperature for 1 hour. Subsequently, the reaction mixture was poured onto crushed ice/diluted hydrochloric acid and the product was extracted twice with tert.-butyl methyl ether; the organic phase was washed with brine and dried over anhydrous sodium sulfate, and finally evaporated leaving 1.15 g of the title compound as light brown solid.

reactant | 4-benzyloxy-5,6,7,8-tetrahydronaphthalene-1-carboxaldehyde | 3.38 mmol, 0.9 g | C(C1=CC=CC=C1)OC1=CC=C(C=2CCCCC12)C=O | C18H18O2
reactant | sodium ethylate | 3.7 mmol, 0.255 g | CC[O-].[Na+]
reactant | ethanol | 10 ml | C(C)O | C2H6O
product | (E)-3-(4-Benzyloxy-5,6,7,8-tetrahydro-naphthalen-1-yl)-acrylic acid ethyl ester | 1.15 g | C(C)OC(\C=C\C1=CC=C(C=2CCCCC12)OCC1=CC=CC=C1)=O | C22H24O3
